US04891363
(2R, 3R)-3-Benzyloxy-6-(t-butyldiphenylsilyloxy)-1-triphenylmethoxyhexan-2-ol
18.33 g of triphenylmethyl chloride were added to a solution of 26.22 g of (2R, 3R)-3-benzyloxy-6-(t-butyldiphenylsilyloxy)hexane-1,2-diol (prepared as described in Preparation 17) and 18.40 ml of triethylamine in 500 ml of toluene. The resulting mixture was heated under reflux for 3 hours. At the end of this time, it was cooled and then diluted with water. It was then extracted three times with ethyl acetate. The combined extracts were washed, in turn, with water, with a saturated aqueous solution of sodium bicarbonate and with a saturated aqueous solution of sodium chloride, after which they were dried over anhydrous magnesium sulfate, and the solvent was stripped off by evaporation under reduced pressure. The resulting oily residue was dissolved in 270 ml of tetrahydrofuran, and then 90 ml of a saturated aqueous solution of sodium bicarbonate were added, and the resulting mixture was stirred at room temperature for 1 hour. After this work-up, 40 g of the oily product were subjected to column chromatography through 500 g of silica gel, 37.01 g of the title compound were obtained, as a colorless oil, from those fractions eluted with mixtures of hexane and ethyl acetate ranging from 95:5 to 9:1 by volume.

reactant | triphenylmethyl chloride | 18.33 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | (2R, 3R)-3-benzyloxy-6-(t-butyldiphenylsilyloxy)hexane-1,2-diol | 26.22 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO)O)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C29H38O4Si
reactant | triethylamine | 18.40 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (2R, 3R)-3-Benzyloxy-6-(t-butyldiphenylsilyloxy)-1-triphenylmethoxyhexan-2-ol | 37.01 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C48H52O4Si
